US08012277B2
Synthesis of Tris(aminoguanidinium) Nitrilotriacetate
Nitrilotriacetic acid (1.0 g, 5.23 mmol) was dissolved in 10 ml of distilled water. Aminoguanidine bicarbonate (2.14 g, 15.69 mmol) was added in portions at room temperature (carbon dioxide gas was evolved) and the reaction was stirred at room temperature for three days. The water was removed in vacuo with heating to approximately 90° C. The product was isolated as a white solid.

reactant | Nitrilotriacetic acid | 5.23 mmol, 1.0 g | N(CC(=O)O)(CC(=O)O)CC(=O)O | C6H9NO6
reactant | Aminoguanidine bicarbonate | 15.69 mmol, 2.14 g | C(O)(O)=O.NNC(=N)N
reactant | carbon dioxide | C(=O)=O | CO2
solvent | water | 10 ml | O | H2O
product | Tris(aminoguanidinium) Nitrilotriacetate | N(CC(=O)[O-])(CC(=O)[O-])CC(=O)[O-].NNC(=[NH2+])N.NNC(=[NH2+])N.NNC(=[NH2+])N | InChI=1S/C6H9NO6.3CH6N4/c8-4(9)1-7(2-5(10)11)3-6(12)13;3*2-1(3)5-4/h1-3H2,(H,8,9)(H,10,11)(H,12,13);3*4H2,(H4,2,3,5)
